US07417047B2
Preparation of 2-fluoro-3-(3-{[1-(2-fluoroethyl)-1H-pyrazol-4-yl]ethynyl}phenyl)pyridine
To a solution of 1-(2-fluoroethyl)-4-iodo-1H-pyrazole (148 mg, 0.62 mmol) in DMF (5.0 mL) is added dichlorobis(triphenylphosphine)palladium (16 mg, 0.022 mmol), copper iodide (3 mg, 0.015 mmol), TEA (0.53 mL, 3.8 mmol) and 3-(3-ethynylphenyl)-2-fluoropyridine (150 mg, 0.76 mmol). The reaction mixture is heated at 65° C. for 3 h, cooled and quenched with H2O. The aqueous layer is extracted with EtOAc. The combined organic extracts are washed with brine, dried (MgSO4) and concentrated. The crude material is purified by chromatography (silica gel, EtOAc/hexane: 30/70) to afford the title compound (145 mg, 76%) as an oil. MS (+) ES: 310 (M+H)+.

reactant | 1-(2-fluoroethyl)-4-iodo-1H-pyrazole | 0.62 mmol, 148 mg | FCCN1N=CC(=C1)I | C5H6FIN2
reactant | 3-(3-ethynylphenyl)-2-fluoropyridine | 0.76 mmol, 150 mg | C(#C)C=1C=C(C=CC1)C=1C(=NC=CC1)F | C13H8FN
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.022 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.015 mmol, 3 mg | [Cu](I)I
product | 2-fluoro-3-(3-{[1-(2-fluoroethyl)-1H-pyrazol-4-yl]ethynyl}phenyl)pyridine | 145 mg, 76% | FC1=NC=CC=C1C1=CC(=CC=C1)C#CC=1C=NN(C1)CCF | C18H13F2N3
